US07767674B2
1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{4-[1-(tert-butoxy)carbonyl-piperidin-4-yloxy]phenyl}urea
Nitrogen gas is bubbled through a solution of (5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester (1.65 g, 5.01 mmol) and 4-(4-amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (1.47 g, 5.02 mmol) in DMSO (20 mL) for 2 min. Next, N,N-diisopropylethylamine (2 mL, 11.48 mmol) is added. The reaction mixture is stirred at 60° C. for 6 hours. Then, the reaction mixture is distributed between water (150 mL) and dichloromethane (100 mL). The aqueous layer is isolated and extracted with dichloromethane (2×100 mL). The combined organic phases are washed with water (100 mL) and aqueous sodium chloride (100 mL), and dried over anhydrous sodium sulfate. After removal of solvent, the crude product is purified on a silica gel chromatography with ethyl acetate-hexanes (25%) to give a white solid (2.28 g, 97%, ES−(m/z) 470.1 [M−H]).

reactant | (5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | 5.01 mmol, 1.65 g | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)C)=O)(Cl)Cl | C11H16Cl3N3O2
reactant | 4-(4-amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 5.02 mmol, 1.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N | C16H24N2O3
reactant | N,N-diisopropylethylamine | 11.48 mmol, 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | 150 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{4-[1-(tert-butoxy)carbonyl-piperidin-4-yloxy]phenyl}urea | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C25H37N5O4
